US20010012844A1
4-Amino-5-(4-methoxyphenoxy)quinazoline (0.35 g, 1.3 mmol) and 3-bromophenyl isocyanate (0.31 g, 1.6 mmol) were reacted in 20 ml of dichloromethane according to procedure E to give 1-[5-(4-methoxyphenoxy)quinazolin-4-yl]-3-(3-bromophenyl)urea (0.5 g, 83.3%, m.p. 249-251° C.).

reactant | 4-Amino-5-(4-methoxyphenoxy)quinazoline | 1.3 mmol, 0.35 g | NC1=NC=NC2=CC=CC(=C12)OC1=CC=C(C=C1)OC | C15H13N3O2
reactant | 3-bromophenyl isocyanate | 1.6 mmol, 0.31 g | BrC=1C=C(C=CC1)N=C=O | C7H4BrNO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[5-(4-methoxyphenoxy)quinazolin-4-yl]-3-(3-bromophenyl)urea | 0.5 g, 83.3% | COC1=CC=C(OC2=C3C(=NC=NC3=CC=C2)NC(=O)NC2=CC(=CC=C2)Br)C=C1 | C22H17BrN4O3
